US06747023B1
1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(2,4-diaminopyrimidin-6-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-21, a reaction was conducted using 4-(2,4-diamino-6-pyrimidyl)benzoic acid hydrochloride and 1-[(E)-4-chlorostyrylsulfonyl)piperazine hydrochloride obtained in Referential Example 31 as starting materials, whereby the title compound was obtained.

reactant | 4-(2,4-diamino-6-pyrimidyl)benzoic acid hydrochloride | Cl.NC1=NC(=CC(=N1)N)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(E)-4-chlorostyrylsulfonyl)piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCNCC2)C=C1
product | 1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(2,4-diaminopyrimidin-6-yl)benzoyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=NC(=N2)N)N)=O)C=C1 | InChI=1S/C23H23ClN6O3S.ClH/c24-19-7-1-16(2-8-19)9-14-34(32,33)30-12-10-29(11-13-30)22(31)18-5-3-17(4-6-18)20-15-21(25)28-23(26)27-20;/h1-9,14-15H,10-13H2,(H4,25,26,27,28);1H/b14-9+;
